US06395766B1
6,6-Dimethyl-3-phenylmethyl-1-(pyridin-2-yl)-4,5,6,7-tetrahydroindol-4-one
A solution of 3-bromo-6,6-dimethyl-1-(pyridin-2-yl)-4,5,6,7-tetrahydroindol-4-one (10 mg, 0.31 mmol), benzyltributylstannane (253 mg, 0.68 mmol) and dichlorobis(triphenylphosphine)palladium (50 mg, 0.08 mmol) in hexamethylphosphoramide (1 mL) was heated at 70° C. for 48 h. The mixture was cooled to room temperature, diluted with DCM (2 mL), and the solution chromatographed on silica gel, eluting with isohexane: EtOAc (4:1). The title compound (45 mg, 43%) was isolated as a colourless solid. mp 111-113° C. Found: C, 79.7; H, 6.7; N, 8.3%. Calc. C22H22N2O: C, 79.97; H, 6.71; N, 8.48%. 1H NMR (360 MHz, CDCl3) δ 1.11 (6H,s), 2.39 (2H,s), 2.93 (2H,s), 4.17 (2H,s), 6.61 (1H,s), 7.16-7.34 (7H,m), 7.77 (1H, d of t, J=7.7 and 1.9 Hz), 8.50-8.53 (1H,m). MS (ES+) 331 (M+1).

reactant | 3-bromo-6,6-dimethyl-1-(pyridin-2-yl)-4,5,6,7-tetrahydroindol-4-one | 0.31 mmol, 10 mg | BrC1=CN(C=2CC(CC(C12)=O)(C)C)C1=NC=CC=C1 | C15H15BrN2O
reactant | benzyltributylstannane | 0.68 mmol, 253 mg | C(C1=CC=CC=C1)[Sn](CCCC)(CCCC)CCCC
solvent | hexamethylphosphoramide | 1 mL | CN(P(=O)(N(C)C)N(C)C)C | C6H18N3OP
solvent | DCM | 2 mL | C(Cl)Cl | CH2Cl2
catalyst | dichlorobis(triphenylphosphine)palladium | 0.08 mmol, 50 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 6,6-Dimethyl-3-phenylmethyl-1-(pyridin-2-yl)-4,5,6,7-tetrahydroindol-4-one | 45 mg, 43% | CC1(CC(C=2C(=CN(C2C1)C1=NC=CC=C1)CC1=CC=CC=C1)=O)C | C22H22N2O
